US06642389B2
c] [rac]-Lithium 2-ethoxy-3-{3-methoxy-4-[2-(5-methyl-2-phenyl-oxazol-4yl)-ethoxy]-phenyl}-propionate
[rac]-2-Ethoxy-3-{3-methoxy-4-[2-(5-methyl-2-phenyl-oxazol-4yl)-ethoxy]-phenyl}-propionic acid ethyl ester (306 mg, 0.67 mmol) were dissolved in 3 ml dioxane and 2 ml water, 50 mg lithium hydroxide were added and the mixture stirred at r.t. during 24 hours. The reaction mixture was then chromatographed (MCI-gel; CH3CN/H2O) as lithium salt to yield 125 mg (43%) of the title compound as a white gum.

reactant | [rac]-2-Ethoxy-3-{3-methoxy-4-[2-(5-methyl-2-phenyl-oxazol-4yl)-ethoxy]-phenyl}-propionic acid ethyl ester | 0.67 mmol, 306 mg | C(C)OC(C(CC1=CC(=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)OC)OCC)=O | C26H31NO6
reactant | lithium hydroxide | 50 mg | [OH-].[Li+]
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
solvent | water | 2 ml | O | H2O
product | [rac]-Lithium 2-ethoxy-3-{3-methoxy-4-[2-(5-methyl-2-phenyl-oxazol-4yl)-ethoxy]-phenyl}-propionate | 125 mg, 43% | C(C)OC(C(=O)[O-])CC1=CC(=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)OC.[Li+] | InChI=1S/C24H27NO6.Li/c1-4-29-22(24(26)27)15-17-10-11-20(21(14-17)28-3)30-13-12-19-16(2)31-23(25-19)18-8-6-5-7-9-18;/h5-11,14,22H,4,12-13,15H2,1-3H3,(H,26,27);/q;+1/p-1
